US07307075B2
1-(3-Chloropropyl)-7-methyl-1H-quinolin-2-one (107LH40)
A microwave vial was charged with 1-(3-chloropropyl)-7-methyl-3,4-dihydro-1H-quinolin-2-one (0.21 g, 0.88 mmol), DDQ (0.30 g, 1.3 mmol), dioxane (4 mL) and sealed. After microwave irradiation, 175° C., 10 min, the reaction was diluted with EtOAc (50 mL), washed with sat aqueous NaHCO3 (2×15 mL) and the organic phase was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified with prep RP-HPLC to yield the crude title compound (0.130 g), which was used without further purification. HPLC-MS (ammonium acetate) [M+H]+=236.2.

reactant | 1-(3-chloropropyl)-7-methyl-3,4-dihydro-1H-quinolin-2-one | 0.88 mmol, 0.21 g | ClCCCN1C(CCC2=CC=C(C=C12)C)=O | C13H16ClNO
reactant | DDQ | 1.3 mmol, 0.30 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(3-Chloropropyl)-7-methyl-1H-quinolin-2-one | 0.130 g | ClCCCN1C(C=CC2=CC=C(C=C12)C)=O | C13H14ClNO
